US07943176B2
Pellet Formulation with Propiverine-Hydrochloride—Eudragit Ratio RS/RL/S 1.5:1:2.5
Before filling into hard gelatine capsules, 2500 g of the thus obtained lacquered active agent pellets were screened under addition of 15 g microfine talc. The particle size fraction of 0.7 mm to 1.25 mm (2450 g, corresponding to 98.0% of the theoretical amount) has a content of 18.5% of propiverine-hydrochloride as determined according to Example 6. The content of citric acid was determined by means of the titration as described in Example 6 to be 49%. Thus the result is a molar ratio of propiverine to citric acid of 1:5.6, which is in the typical range.

reactant | propiverine hydrochloride | CCCOC(C=1C=CC=CC1)(C=2C=CC=CC2)C(=O)OC3CCN(CC3)C.Cl
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | propiverine | CCCOC(C=1C=CC=CC1)(C=2C=CC=CC2)C(=O)OC3CCN(CC3)C | C23H29NO3
product | Propiverine Hydrochloride Eudragit | CCCOC(C=1C=CC=CC1)(C=2C=CC=CC2)C(=O)OC3CCN(CC3)C.Cl.CC(=C)C(=O)OC | InChI=1S/C23H29NO3.C5H8O2.ClH/c1-3-18-26-23(19-10-6-4-7-11-19,20-12-8-5-9-13-20)22(25)27-21-14-16-24(2)17-15-21;1-4(2)5(6)7-3;/h4-13,21H,3,14-18H2,1-2H3;1H2,2-3H3;1H
